US07598249B2
4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid phenylamide
The title compound was prepared from piperazine-1-carboxylic acid phenylamide and benzo[1,3]dioxole-5-carbaldehyde. 1H NMR (400 MHz, CDCl3): 7.36-7.24 (m, 4H), 7.05-6.99 (m, 1H), 6.86 (br s, 1H), 6.77-6.72 (m, 2H), 6.43 (br s, 1H), 5.95 (s, 2H), 3.50-3.46 (m, 4H), 3.43 (s, 2H), 2.46-2.42 (m, 4H).

reactant | piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCNCC1 | C11H15N3O
reactant | benzo[1,3]dioxole-5-carbaldehyde | O1COC2=C1C=CC(=C2)C=O | C8H6O3
product | 4-Benzo[1,3]dioxol-5-ylmethyl-piperazine-1-carboxylic acid phenylamide | C1(=CC=CC=C1)NC(=O)N1CCN(CC1)CC1=CC2=C(OCO2)C=C1 | C19H21N3O3
